US06002008
A mixture of 0.16 g of 88% KOH and 1.73 g of 3-bromophenol at 50° C. was treated with 0.50 g of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile. The resulting mixture was heated to 170° C. during 30 min, cooled, and treated at 0° C. with 40 ml of 0.1N NaOH. The solid which resulted was filtered, washed with water, and dissolved in methylene chloride. The solution was washed with 0.5 N NaOH and water, dried, and concentrated. The resulting solid was recrystallized from methylene chloride-hexane to give 4-(3-bromophenoxy)-6,7-dimethoxy-3-quinolinecarbonitrile as a white solid, mp187-190° C.

reactant | KOH | 0.16 g | [OH-].[K+]
reactant | 3-bromophenol | 1.73 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 0.50 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
solvent | NaOH | 0.1N, 40 ml | [OH-].[Na+]
product | 4-(3-bromophenoxy)-6,7-dimethoxy-3-quinolinecarbonitrile | BrC=1C=C(OC2=C(C=NC3=CC(=C(C=C23)OC)OC)C#N)C=CC1 | C18H13BrN2O3
